US06582351B1
A solution of methyl chloroformate (25.7 mg) in chloroform (1 ml) was added dropwise to a mixture of 3-(3-chloro-4-methoxybenzyl)-5-cyano-1-[(S)-pyrrolidin-3-yl]-2,3-dihydro-1H-benzimidazole-2-one (80 mg) and triethylamine (31.7 mg) in a mixture of chloroform (1.6 ml) and 1,3-dimethyl-2-imidazolidinone (0.8 ml) under cooling on an ice bath. The reaction mixture was stirred at same temperature for 2 hours and quenched by addition of 3-(N,N-diethylamino)propylamine (0.1 ml). The mixture was poured into water and extracted with chloroform. The organic layer was washed with 1N-hydrochloric acid, water, an aqueous saturated sodium bicarbonate solution and brine, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by a preparative thin layer chromatography (10% methanol in chloroform) to give 3-(3-chloro-4-methoxybenzyl)-5-cyano-1-[(S)-1-methoxycarbonylpyrrolidin-3-yl]-2,3-dihydro-1H-benzimidazole-2-one (55 mg).

reactant | methyl chloroformate | 25.7 mg | ClC(=O)OC | C2H3ClO2
reactant | 3-(3-chloro-4-methoxybenzyl)-5-cyano-1-[(S)-pyrrolidin-3-yl]-2,3-dihydro-1H-benzimidazole-2-one | 80 mg | ClC=1C=C(CN2C(N(C3=C2C=C(C=C3)C#N)[C@@H]3CNCC3)=O)C=CC1OC | C20H19ClN4O2
reactant | triethylamine | 31.7 mg | C(C)N(CC)CC | C6H15N
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1.6 ml | C(Cl)(Cl)Cl | CHCl3
solvent | 1,3-dimethyl-2-imidazolidinone | 0.8 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | 3-(3-chloro-4-methoxybenzyl)-5-cyano-1-[(S)-1-methoxycarbonylpyrrolidin-3-yl]-2,3-dihydro-1H-benzimidazole-2-one | 55 mg | ClC=1C=C(CN2C(N(C3=C2C=C(C=C3)C#N)[C@@H]3CN(CC3)C(=O)OC)=O)C=CC1OC | C22H21ClN4O4
